US07723522B2
Synthesis of 1,3-dimethyl-2,3-dihydro-2-oxopyrimidinium Chloride (I-1)
69.6 g (0.5 mol) of 3-piperidinoacrolein, 48.5 g (0.55 mol) of 1,3-dimethylurea and 130.2 g (1.25 mol) of 35% hydrochloric acid were dissolved in 400 ml of methanol and allowed to undergo the reaction at 50° C. for 2 hours. After completion of the reaction, this was cooled to 10° C., and the precipitated crystals were collected by filtration to obtain 90.1 g (yield 85%) of the title compound (purity 99.8%, melting point 174-175° C.).

reactant | 3-piperidinoacrolein | 0.5 mol, 69.6 g | N1(CCCCC1)C=CC=O | C8H13NO
reactant | 1,3-dimethylurea | 0.55 mol, 48.5 g | CNC(=O)NC | C3H8N2O
reactant | hydrochloric acid | 1.25 mol, 130.2 g | Cl | ClH
reactant | methanol | 400 ml | CO | CH4O
product | 1,3-dimethyl-2,3-dihydro-2-oxopyrimidinium Chloride | 90.1 g, yield 85% | [Cl-].C[N+]=1C(N(C=CC1)C)=O | InChI=1S/C6H9N2O.ClH/c1-7-4-3-5-8(2)6(7)9;/h3-5H,1-2H3;1H/q+1;/p-1
